US06749839B2
A mixture of 35 g (0.18 mol) of 2-ethylhexyl cyanoacetate and 30 g (0.18 mol) of 4-acetamidobenzaldehyde in 300 ml of isopropanol is refluxed for 3 hours. The reaction mixture is then allowed to cool and is crystallized. The crystals formed are separated out by filtration and are recrystallized from a minimum amount of isopropanol. After filtration and drying, 33.3 g (54% yield) of 2-ethylhexyl 3-(4-acetylaminophenyl)-2-cyanoacrylate are obtained in the form of a pale yellow powder.

reactant | 2-ethylhexyl cyanoacetate | 0.18 mol, 35 g | C(#N)CC(=O)OCC(CCCC)CC | C11H19NO2
reactant | 4-acetamidobenzaldehyde | 0.18 mol, 30 g | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | 2-ethylhexyl 3-(4-acetylaminophenyl)-2-cyanoacrylate | 33.3 g, 54% yield | C(C)(=O)NC1=CC=C(C=C1)C=C(C(=O)OCC(CCCC)CC)C#N | C20H26N2O3
